US05347013
A. Preparation of (±)-1-Benzoyl-6-cyano-4-(di-n-propylamino)-l,2,2a,3,4,5-hexahydrobenz[cd]indole
To a solution of (±)-1-benzoyl-6-bromo-4-(di-n-propylamino)hexahydrobenz[cd]indole (5.5 g, 12.5 mmol) in DMF (100 mL) under a N2 atmosphere was added 3.4 g (37.5 mmol) of CuCN and 7.1 g (37.5 mmol) of CuI. The reaction mixture was then stirred at 140° C. for 6 hr. The reaction mixture was poured onto ice, diluted with water, CH2Cl2 added and stirred for 30 minutes. The mixture was filtered through a Celite pad and the filtrate was extracted twice with CH2Cl2. The organic solution was washed twice with saturated NaCl solution. The CH2Cl2 solution was dried over MgSO4 and then evaporated to provide 4 g of a solid. Chromatography of this crude product over silica gel with 1:19 MeOH/CH2Cl2 as eluent gave 3 g (62%) of product. mp=122°-124° C.

reactant | (±)-1-benzoyl-6-bromo-4-(di-n-propylamino)hexahydrobenz[cd]indole | 12.5 mmol, 5.5 g | C(C1=CC=CC=C1)(=O)N1CC2C=3C(C(C=CC13)Br)CC(C2)N(CCC)CCC | C24H31BrN2O
reactant | CuCN | 37.5 mmol, 3.4 g | C(#N)[Cu]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | CuI | 37.5 mmol, 7.1 g | [Cu]I
product | (±)-1-Benzoyl-6-cyano-4-(di-n-propylamino)-l,2,2a,3,4,5-hexahydrobenz[cd]indole | 4 g | C(C1=CC=CC=C1)(=O)N1CC2C=3C(=C(C=CC13)C#N)CC(C2)N(CCC)CCC | C25H29N3O
